US08729263B2
To a 50 mL round bottom flask was added 2-formamido-N-(4-isopropoxy-3-methoxyphenethyl)acetamide (600 mg, 2.04 mmol) followed by acetonitrile (10.2 mL) and POCl3 (0.57 mL, 6.12 mmol). The reaction mixture was heated to 80° C. for one hour then concentrated in vacuo. To the resulting oil was added H2O and aqueous saturated sodium carbonate, then the solution was extracted with EtOAc (2×). The organic extracts were combined, dried with sodium sulfate and concentrated in vacuo. The crude product was purified by silica gel chromatography (0-10% MeOH in DCM) to afford 9-isopropoxy-8-methoxy-5,6-dihydroimidazo[5,1-a]isoquinoline (182 mg) MS [M+H+]=259.2.

reactant | 2-formamido-N-(4-isopropoxy-3-methoxyphenethyl)acetamide | 2.04 mmol, 600 mg | C(=O)NCC(=O)NCCC1=CC(=C(C=C1)OC(C)C)OC | C15H22N2O4
reactant | POCl3 | 6.12 mmol, 0.57 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 10.2 mL | C(C)#N | C2H3N
product | 9-isopropoxy-8-methoxy-5,6-dihydroimidazo[5,1-a]isoquinoline | 182 mg | C(C)(C)OC1=C(C=C2CCN3C(C2=C1)=CN=C3)OC | C15H18N2O2
